US06093732
N-[(4-Chlorophenyl)methyl]-8-fluoro-4-hydroxy-6-[3-(methylthio)propyl]-3-quinolinecarboxamide
A mixture of N-[(4-Chlorophenyl)methyl]-8-fluoro-4-hydroxy-6-[3-(methylthio)-1-propynyl]-3-quinolinecarboxamide from Example No. 126 (0.07 g) and Pd/C (10%, 0.120 g) in 3:1 CH2Cl2 /MeOH (20 mL) was placed on a Parr hydrogenator under 45 psi of H2 and shaken for 4 h. Another 0.08 g of Pd/C was added, and the resulting mixture is shaken for 2 h. The reaction mixture is then filtered through Celite, 0.120 g of fresh catalyst was added, and the resulting mixture was shaken under H2 for 6 h. The reaction mixture is then filtered through Celite and concentrated in vacuo. Crystallization from EtOH gave 0.015 g of the title compound as a solid.

reactant | N-[(4-Chlorophenyl)methyl]-8-fluoro-4-hydroxy-6-[3-(methylthio)-1-propynyl]-3-quinolinecarboxamide | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=C(C=C(C=C2C1O)C#CCSC)F | C21H16ClFN2O2S
catalyst | Pd/C | 0.120 g | [Pd] | Pd
catalyst | Pd/C | 0.08 g | [Pd] | Pd
solvent | CH2Cl2 MeOH | 20 mL | C(Cl)Cl.CO
product | N-[(4-Chlorophenyl)methyl]-8-fluoro-4-hydroxy-6-[3-(methylthio)propyl]-3-quinolinecarboxamide | 0.015 g | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=C(C=C(C=C2C1O)CCCSC)F | C21H20ClFN2O2S
